US06485886B1
(4-Diethoxyphosphoryloxyimino-cyclohexa-2,5-dienylidene)-2,4-dichlorophenyl-acetonitrile
20.4 g (0.07 mol) of (4-hydroxyimino-cyclohexa-2,5-dienylidene)-2,4-dichlorphenyl-acetonitrile, 7.1 g (0.07 mol) of triethylamine and a catalytic amount of N,N-dimethylaminopyridine are dissolved in 270 ml of THF. This solution is cooled in an ice bath, and 12.1 g (0.07 mol) of diethylphosphoryl chloride are added dropwise while stirring. When the addition is complete, the orange solution is warmed to room temperature and stirred overnight. Water and ethyl acetate are subsequently added, and the organic layer is washed several times with saturated sodium chloride solution and water and dried over magnesium sulfate. Evaporation of the solvent gives 30.4 g of a viscous yellowish oil, which is further purified by filtration over silica gel (eluent: hexane/ethyl acetate 9:1). Yield: 25.5 g (85%). 31P-NMR (CDCl3; δ relative to H3PO4 as external reference): 0.132 and 0.003 ppm (P(V) of the (E) and (Z)-isomers). 1H-NMR (CDCl3, δ [ppm]): 7.60-7.15 (m, 7H); 7.0-6.55 (m, 2H), 4.35-4.15, (m, 4H-C(1′)); 1.38 and 1.35 (t, 3H-C(2′)).

reactant | (4-hydroxyimino-cyclohexa-2,5-dienylidene)-2,4-dichlorphenyl-acetonitrile | 0.07 mol, 20.4 g | ON=C1C=CC(C=C1)=C(C#N)C1=C(C=C(C=C1)Cl)Cl | C14H8Cl2N2O
reactant | triethylamine | 0.07 mol, 7.1 g | C(C)N(CC)CC | C6H15N
reactant | diethylphosphoryl chloride | 0.07 mol, 12.1 g | C(C)P(=O)(CC)Cl | C4H10ClOP
reactant | Water | O | H2O
reactant | THF | 270 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Diethoxyphosphoryloxyimino-cyclohexa-2,5-dienylidene)-2,4-dichlorophenyl-acetonitrile | 30.4 g | C(C)OP(=O)(OCC)ON=C1C=CC(C=C1)=C(C#N)C1=C(C=C(C=C1)Cl)Cl | C18H17Cl2N2O4P
